US04596799
To a solution of 2.5 g of methyl 1-(2-nitrobenzyl)pyrrole-2-carboxylate in 50 mL of dry tetrahydrofuran is added 1.54 g of N-chlorosuccinimide. The reaction is allowed to stir at room temperature for 48 hours. To the reaction mixture is added sodium sulfite, the reaction is stirred for an additional 1 hour, filtered and evaporated to dryness. The residue is extracted into 200 mL of ether, the extract is dried over anhydrous magnesium sulfate and evaporated to dryness to yield methyl 1-(2-nitrobenzyl)-5-chloropyrrole-2-carboxylate which is used in the next step without further purification.

reactant | methyl 1-(2-nitrobenzyl)pyrrole-2-carboxylate | 2.5 g | [N+](=O)([O-])C1=C(CN2C(=CC=C2)C(=O)OC)C=CC=C1 | C13H12N2O4
reactant | N-chlorosuccinimide | 1.54 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 1-(2-nitrobenzyl)-5-chloropyrrole-2-carboxylate | [N+](=O)([O-])C1=C(CN2C(=CC=C2Cl)C(=O)OC)C=CC=C1 | C13H11ClN2O4
